US09029560B2
Preparation of 4-(3-bromophenyl)butan-1-ol (CA47)
To a solution of 1-bromo-3-(but-3-en-1-yl)benzene (CA46) (7.51 g, 35.6 mmol) in hexanes (80 mL) was added (1S,5S)-9-borabicyclo[3.3.1]nonane (0.5 M in tetrahydrofuran, 74.7 mL, 37.4 mmol). The reaction was allowed to stir at room temperature overnight. To the resulting clear solution sodium hydroxide (6.0 M, 5.93 mL, 35.6 mmol) was added dropwise. The reaction was placed in an ice water bath and hydrogen peroxide (13.8 mL, 135 mmol) was added. The resulting mixture was then heated to an internal temperature of 50° C. for overnight. The reaction mixture was cooled to room temperature. The biphasic solution was partitioned, and the organic layer was washed with sodium bisulfite, and brine solution. The combined aqueous layers were made basic with saturated sodium carbonate, and extracted with diethyl ether (2×100 mL). The combined organics were dried over magnesium sulfate, filtered, and concentrated. The liquid was loaded on to silica and purified by flash column chromatography using 0-40% ethyl acetate/hexanes as eluent providing the title compound as a clear liquid (7.50 g, 90%): 1H NMR (400 MHz, DMSO-d6) δ 7.40 (t, J=1.9 Hz, 1H), 7.37 (dt, J=7.6, 1.8 Hz, 1H), 7.28-7.17 (m, 2H), 4.39 (t, J=5.2 Hz, 1H), 3.40 (td, J=6.5, 5.2 Hz, 2H), 2.57 (t, J=7.6 Hz, 2H), 1.65-1.51 (m, 2H), 1.49-1.35 (m, 2H); EIMS m/z 228 ([M]+).

reactant | 1-bromo-3-(but-3-en-1-yl)benzene | 35.6 mmol, 7.51 g | BrC1=CC(=CC=C1)CCC=C | C10H11Br
reactant | sodium hydroxide | 35.6 mmol, 6.0 M, 5.93 mL | [OH-].[Na+]
reactant | hydrogen peroxide | 135 mmol, 13.8 mL | OO | H2O2
product | 4-(3-bromophenyl)butan-1-ol | 7.50 g, 90% | BrC=1C=C(C=CC1)CCCCO | C10H13BrO
